US07585880B2
4-isobutyl-N-(2-phenylethyl)-1,3-thiazole-2-amine
To a solution of 4-methyl-2-pentanone (2.00 g) in methanol (10 mL) was added bromine (3.20 g) at −30° C. The mixture was allowed to warm to room temperature and stirred until the red color of bromine disappeared. To the obtained colorless solution were added sodium acetate (3.20 g) and N-(2-phenylethyl)thiourea (1.80 g) and the mixture was stirred with heating under reflux for 4 hr. A saturated aqueous sodium hydrogencarbonate solution (10 mL) was added to the reaction mixture and the mixture was concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:9-2:1 in volume ratio) to give the title compound (1.15 g, yield 41%) as pale-yellow crystals.

reactant | bromine | 3.20 g | BrBr | Br2
reactant | sodium acetate | 3.20 g | C(C)(=O)[O-].[Na+]
reactant | N-(2-phenylethyl)thiourea | 1.80 g | C1(=CC=CC=C1)CCNC(=S)N | C9H12N2S
reactant | sodium hydrogencarbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | 4-methyl-2-pentanone | 2.00 g | CC(CC(C)=O)C | C6H12O
product | 4-isobutyl-N-(2-phenylethyl)-1,3-thiazole-2-amine | 1.15 g, yield 41% | C(C(C)C)C=1N=C(SC1)NCCC1=CC=CC=C1 | C15H20N2S
